US07601716B2
2-[4-(3-{1-[5-Chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoyl)piperazin-1-yl]-N-isopropylacetamide
3-{1-[5-chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoic acid was reacted with 2-piperazinyl-N-isopropylacetamide as in General Procedure 10 to give the title compound. LCMS: m/z=615.01 (M+H+); retention time=0.61 minutes.

reactant | 3-{1-[5-chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoic acid | ClC=1C=CC(=C(CN2C3=C(NCC2)N=CC(=C3)C=3C=C(C(=O)O)C=CC3)C1)C(F)(F)F | C22H17ClF3N3O2
reactant | 2-piperazinyl-N-isopropylacetamide | N1(CCNCC1)CC(=O)NC(C)C | C9H19N3O
product | 2-[4-(3-{1-[5-Chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoyl)piperazin-1-yl]-N-isopropylacetamide | ClC=1C=CC(=C(CN2C3=C(NCC2)N=CC(=C3)C=3C=C(C(=O)N2CCN(CC2)CC(=O)NC(C)C)C=CC3)C1)C(F)(F)F | C31H34ClF3N6O2
